US04716241
3.38 g of (2,2,5,5-tetramethylcyclopentane-1-yl)carboxamide was dissolved in 30 ml of methanol, and 15 ml of an aqueous 3N sodium hydroxide solution was added thereto. Then, the mixture was heated at 80° C. for 5 hours. After cooling, 40 ml of 2N hydrochloric acid was added thereto, and the mixture was extracted with 100 ml and 50 ml of ethyl acetate. The organic layers were combined, washed with 100 ml of water and 50 ml of aqueous saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was concentrated under reduced pressure, whereby 3.20 g of 2,2,5,5-tetramethylcyclopentanecarboxylic acid was obtained. Yield 94%. (m.p. 113.6° C.)

reactant | (2,2,5,5-tetramethylcyclopentane-1-yl)carboxamide | 3.38 g | CC1(C(C(CC1)(C)C)C(=O)N)C | C10H19NO
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 40 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2,2,5,5-tetramethylcyclopentanecarboxylic acid | 3.20 g, Yield 94% | CC1(C(C(CC1)(C)C)C(=O)O)C | C10H18O2
